US04083803
A stirred mixture of 6.8 g (0.05 mole) trichlorosilane and 19.6 g (0.1 mole) 1,13-tetradecadiene was irradiated in a closed quartz tube at 45° C for 72 hours with two Hanau 70 watt high pressure mercury immersion lamps, emitting a broad spectrum of ultraviolet light. The resulting crude product was then fractionated to yield 5 g (25%) of 13-tetradecenyl trichlorosilane as the monoadduct.

reactant | trichlorosilane | 0.05 mole, 6.8 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1,13-tetradecadiene | 0.1 mole, 19.6 g | C=CCCCCCCCCCCC=C | C14H26
catalyst | mercury | [Hg] | Hg
product | 13-tetradecenyl trichlorosilane | 5 g, 25% | C(CCCCCCCCCCCC=C)[Si](Cl)(Cl)Cl | C14H27Cl3Si
